US04096112
At a temperature of 25° C. 54 g (1 mol) of sodium methylate and 170 g (1.2 mol) of methyl iodide were added to a solution of 223 g (1 mol) of 2-(2'-hydroxy-4'-methyl-phenyl)-indole, prepared as in Example 1, in 1200 ml of N,N-dimethylformamide. The solution was then stirred for 2 hours and the crude product was precipitated by adding water. After recrystallization from benzene, 166 g of 2-(2'-methoxy-4'-methyl-phenyl)-indole were obtained. M.P.: 125° C. Yield: 70%.

reactant | sodium methylate | 1 mol, 54 g | C[O-].[Na+]
reactant | methyl iodide | 1.2 mol, 170 g | CI | CH3I
reactant | 2-(2'-hydroxy-4'-methyl-phenyl)-indole | 1 mol, 223 g | OC1=C(C=CC(=C1)C)C=1NC2=CC=CC=C2C1 | C15H13NO
solvent | N,N-dimethylformamide | 1200 ml | CN(C=O)C | C3H7NO
product | 2-(2'-methoxy-4'-methyl-phenyl)-indole | 166 g, Yield: 70% | COC1=C(C=CC(=C1)C)C=1NC2=CC=CC=C2C1 | C16H15NO
